US04515948
A mixture of 1.4 g. of sodium methylate, 3.75 g. of β-anilino-propionitrile and 6.3 g. of 2',6'-bis(allyloxy)-4'-[1-hydroxy-2-(methylsulfonyl)-ethyl]-acetanilide in 43 ml. of absolute dimethylsulfoxide was stirred at room temperature under an atmosphere of nitrogen and the exclusion of moisture for 3 hours, poured into 200 ml. of water and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried and evaporated. After chromatography on aluminum oxide and recrystallization from ethanol, there was obtained 2',6'-bis-(allyloxy)-4'-(3-anilino-2-cyano-allyl)-acetanilide having a melting point of 176°-178° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilino-propionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | 2',6'-bis(allyloxy)-4'-[1-hydroxy-2-(methylsulfonyl)-ethyl]-acetanilide | C(C=C)OC1=C(NC(C)=O)C(=CC(=C1)C(CS(=O)(=O)C)O)OCC=C | C17H23NO6S
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2',6'-bis-(allyloxy)-4'-(3-anilino-2-cyano-allyl)-acetanilide | C(C=C)OC1=C(NC(C)=O)C(=CC(=C1)CC(=CNC1=CC=CC=C1)C#N)OCC=C | C24H25N3O3
